Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p assault
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man who presents s/p assault to 
face with facial fractures. Per report of ED as the patient was 
unable to answer questions on history, the patient was assaulted 
with fists to the face at around ___ this morning. The ED 
noted that the patient felt he had decreased visual acuity in 
his R worse than L eye. He had significant periorbital swelling 
and bruising of his R>L eye. The ED initially measured IOP of 
the right eye at 25; Ophthalmology examined the patient with IOP 
pressures of R: 13 and L: 12. 

 
Past Medical History:
Past Medical History:
Unknown

Past Surgical History:
Unknown

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
Admission Physical Exam:

Vitals: HR 85, BP 156/118, RR 16, SpO2 100% on RA
GEN: intoxicated, drifting in and out of sleep, unable to
participate in complete facial exam.
HEENT: Cervical collar in place. Patient with significant
periorbital swelling and bruising, R worse than L, and
significant chemosis of right eye. L pupil dilated after
Ophthalmology exam; both pupils reactive to light. Forced 
duction
test performed with Ophthalmology with some restriction in
abduction of right eye; no restriction with adduction and
superior and inferior gaze on forced duction. Intercanthal
distance 42mm. Palpable deformity nasal bones. No nasal septal
hematoma. No clear fluid from nasal passageways or back of
throat. No palpable deformity of inferior orbital rim, malar
eminences, zygomatic arches, and mandible. Midface stable. 
Unable
to assess V and VII nerve exam due to mental status. 
PULM: Breathing comfortably on room air
Ext: WWP

Discharge Physical Exam:
VS: T: 98.2 PO BP: 141/96, HR: 70 RR: 16 O2: 96% RA  
GEN: A+Ox3, NAD
HEENT: b/l eyes injected, R worse than left. b/l periorbital 
ecchymosis. EOM intact. MMM. Cervical collar in place 
CV: RRR, no m/r/g
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation 
EXT: Warm, well-perfused. No edema b/l

 
Pertinent Results:
IMAGING:

___: CXR:
No acute cardiopulmonary process.  No evidence of pneumothorax.

___: CT Head:
1. No acute intracranial hemorrhage. 
2. Proptotic right globe which appears intact.  Soft tissue 
swelling and 
likely small hematoma primarily in the preseptal space, however 
a small 
component appears to extend posteriorly into the retro bulbar 
region lateral to the lateral rectus. 
3. Right ___ fracture with with herniation of fat into the right 
ethmoid air cells secondary to a lamina papyracea fracture.  For 
further details of the facial fractures, please see separate 
report for same-day CT facial bones. 

___: CT Torso:
1. No acute sequelae of trauma identified. 
2. Hyperenhancing 2.1 cm nodule in hepatic segment VII.  
Recommend 
nonurgent/routine MRI Liver for further evaluation. 
3. Circumscribed hypodensities in the kidneys bilaterally are 
indeterminate on this single phase exam.  These could be further 
assessed at this time followup MRI. 

___: CT C-spine:
1. No evidence of acute fracture or traumatic malalignment.  No 
prevertebral fluid. 
2. Mild to moderate cervical spine degenerative changes, as 
above. 

___: CT SINUS/MANDIBLE/MAXIL:
1. Medial right orbital wall blowout/depressed fracture 
involving the lamina papyracea with herniation of fat into the 
subjacent ethmoid air cell.  Medial rectus both slightly towards 
the defect without frank herniation. 
2. The right globe is proptotic with possible traction on the 
optic nerve.  The right globe is intact.  Periorbital soft 
tissue swelling and hematoma identified with hematoma/soft 
tissue extension into the postseptal extraconal space lateral to 
the right lateral rectus. 
3. Comminuted nasal bone fracture. 

___:  MR CERVICAL SPINE W/O C :

1. No evidence of traumatic injury. 
2. Multilevel cervical spondylosis described above.  There is 
moderate to 
severe spinal canal narrowing at C5-6, flattening the cord. 
3. A punctate focus of mildly hyperintense signal in the spinal 
cord at C6,  may represent a small focus of edema or 
myelomalacia, immediately inferior to the moderate to severe 
spinal canal narrowing. 
4. There is moderate to severe multilevel bilateral neural 
foraminal narrowing as described. 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o M who was admitted to ___ s/p 
assault to the face with facial fractures. His facial injuries 
included a right medial orbital wall/lamina paprecea fracture 
with fat herniation into ethmoid air cells, bilateral nasal bone 
fractures, a small hematoma lateral to lateral rectus.  
Ophthalmology was consulted and no surgical management was 
warranted.  Plastic Surgery was consulted and recommended sinus 
precautions, head of bed elevated at least 30 degrees, 
Erythromycin ointment to right eye to keep moist at all times.  
The patient was admitted to the Trauma Surgery service for 
further care.

On HD1, a tertiary trauma exam was performed which was positive 
for left-sided neck pain and left arm paresthesias. The 
Orthopaedic Spine team was consulted. The patient remained in a 
hard cervical collar and an MRI c-spine was ordered which 
revealed no evidence of traumatic injury, moderate to severe 
spinal canal narrowing at C5-6, and a punctate focus of mildly 
hyperintense signal in the spinal cord at C6.  Per Ortho Spine, 
the patient was to remain in a ___ J collar for c-spine 
stabilization until follow-up in outpatient Spine clinic. 

The patient was alert and oriented throughout hospitalization; 
pain was managed with oral acetaminophen.  The patient remained 
stable from a cardiovascular and pulmonary standpoint; vital 
signs were routinely monitored. Good pulmonary toilet, early 
ambulation and incentive spirometry were encouraged throughout 
hospitalization. 
The patient tolerated a regular diet. Patient's intake and 
output were closely monitored The patient's fever curves were 
closely watched for signs of infection, of which there were 
none. The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. The patient received 
subcutaneous heparin and ___ dyne boots were used during this 
stay and was encouraged to get up and ambulate as early as 
possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 

 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Artificial Tears ___ DROP RIGHT EYE TID:PRN eye dryness  
3.  Erythromycin 0.5% Ophth Oint 0.5 in RIGHT EYE TID 
RX *erythromycin 5 mg/gram (0.5 %) 1 cm in the right eye three 
times a day Disp #*1 Tube Refills:*1 
4.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Status-post assault:
-Right ___ ethmoid type fracture with herniation of
orbital fat through medial wall of right orbit
-C-spine nerve impingement 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ after 
an assault. You sustained facial fractures and a possible nerve 
impingement in your cervical spine. The Spine team was consulted 
and are recommending that you continue to wear a hard cervical 
collar for ___ weeks and follow-up in the Spine clinic. Plastic 
Surgery and Opthalmology evaluated your facial fractures, and 
feel these injuries do not require operative repair. You should 
continue with the sinus precautions, and keep the right eye 
moist with eye drops and erythromycin ointment for the next 2 
weeks. You may follow up in their clinics. You are now medically 
clear for discharge. Please note the following instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*If you experience worsening vision or have double vision
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.

Sinus Precautions Instructions:
1. Take the prescribed medications as directed.

2. Do not forcefully spit for several days.

3. Do not smoke for several days.

4. Do not use straws for several days.

5. Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel “stuffy” or there may be some nasal 
drainage.

6. Try not to sneeze; it will cause undesired sinus pressure. If 
you must sneeze, keep your mouth open.

7. Eat only soft foods for several days, always trying to chew 
on the opposite side of your mouth.

8. Do not rinse vigorously for several days. GENTLE salt water 
swishes may be used. Slight bleeding from the nose is not 
uncommon for several days after the surgery. Please keep our 
office advised of any changes in your condition, especially if 
drainage or pain increases. It is important that you keep all 
future appointments until this condition has resolved.

 
Followup Instructions:
___